US06297197B1
B. 4-Amino-6-bromo-5-chloro-3-methoxypyridine-2-carboxylic Acid (Compound 42)
To methyl-4-amino-6-bromo-5-chloro-3-methoxypyridine-2-carboxylate (0.300 g, 1.02 mmol) in 10 mL of methanol was added 1 N NaOH (1.10 mL, 1.10 mmol). The reaction mixture was stirred at room temperature for 4 hr and was then concentrated to dryness in vacuo. The resulting aqueous layer was acidified with concentrated HCl. The white solid was collected by filtration and was rinsed with H2O. The solid was dried at 50° C. under vacuum to give 0.230 g of a white fluffy solid; mp 154-156° C.

reactant | methyl-4-amino-6-bromo-5-chloro-3-methoxypyridine-2-carboxylate | 1.02 mmol, 0.300 g | COC(=O)C1=NC(=C(C(=C1OC)N)Cl)Br | C8H8BrClN2O3
reactant | NaOH | 1.10 mmol, 1 N, 1.10 mL | [OH-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
product | 4-Amino-6-bromo-5-chloro-3-methoxypyridine-2-carboxylic Acid | 0.230 g | NC1=C(C(=NC(=C1Cl)Br)C(=O)O)OC | C7H6BrClN2O3
